US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide
(4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride (298 mg, 1.0 mmol) in dry dimethylformamide under argon. The clear solution was cooled in an ice-bath and dicyclohexylcarbodiimide (417 mg, 2.0 mmol) was added. The reaction mixture was stirred at RT for 3 d and worked up by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). The mixture was diluted with water, 5 M sodium hydroxide solution (4 ml, 20 mmol) was added and the mixture was stored at 5° C. for 16 h. The crude product thereby precipitated out as a beige-coloured substance (400 mg). After purification by chromatography on silica gel with methanol, the product was obtained as a beige-coloured solid in a yield of 35% (144 mg) and with an m.p.

reactant | (4-dimethylamino-4-phenylcyclohexyl)acetic acid hydrochloride | 1.0 mmol, 298 mg | Cl.CN(C1(CCC(CC1)CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 2.0 mmol, 417 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 20 mmol, 5 M, 4 ml | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[2-(1H-indol-3-yl)ethyl]acetamide | CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C26H33N3O
